US04271163
5.0 g (24.8 millimoles) of 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one, 4.5 g (32.4 millimoles) of 1-chlorocyclopropanecarboxylic acid chloride and 100 ml of absolute tetrahydrofuran are kept at room temperature for 6 hours. The product is filtered off at 10° C., washed first with tetrahydrofuran and then with water, and recrystallized from methanol. 4.7 g (62% of theory) of 2-[p-(1-chlorocyclopropylcarbonylamino)-phenyl]-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one are isolated as colorless crystals, of melting point 221°-222° C.

reactant | 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 24.8 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C11H11N3O
reactant | 1-chlorocyclopropanecarboxylic acid chloride | 32.4 millimoles, 4.5 g | ClC1(CC1)C(=O)Cl | C4H4Cl2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[p-(1-chlorocyclopropylcarbonylamino)-phenyl]-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 4.7 g, 62% | ClC1(CC1)C(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C15H14ClN3O2
